US05759443
A solution of 1.86 g of 5-(9-cyclopentyl-non-1-enyl)-2-(4-heptyloxy-phenyl)-pyrimidine in 35 ml of toluene is hydrogenated with 0.24 g of 5% palladium/charcoal at room temperature and normal pressure until the hydrogen uptake comes to a standstill. Recrystallization from ethanol of the crude product obtained after filtration and concentration of the filtrate yields pure 5-(9-cyclopentyl-nonyl)-2-(4-heptyloxy-phenyl)-pyrimidine.

reactant | 5-(9-cyclopentyl-non-1-enyl)-2-(4-heptyloxy-phenyl)-pyrimidine | 1.86 g | C1(CCCC1)CCCCCCCC=CC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCC | C31H46N2O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/charcoal | 0.24 g | [Pd] | Pd
product | 5-(9-cyclopentyl-nonyl)-2-(4-heptyloxy-phenyl)-pyrimidine | C1(CCCC1)CCCCCCCCCC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCC | C31H48N2O
